US04677129
(a) 1-(4-aminophenyl)-3-(4-methoxybenzyl)-3-azabicyclo[3.1.1]heptane-2,4-dione
In a manner analogous to that described in Example 1a, 5.0 g of 3-(4-methoxybenzyl)-1-(4-nitrophenyl)-3-azabicyclo[3.1.1]heptane-2,4-dione are dissolved in 100 ml of ethyl acetate, hydrogenated in the presence of 1 g of 5% palladium-on-carbon and worked up. Melting point 147°-147.5° (from ether).

reactant | 3-(4-methoxybenzyl)-1-(4-nitrophenyl)-3-azabicyclo[3.1.1]heptane-2,4-dione | 5.0 g | COC1=CC=C(CN2C(C3(CC(C2=O)C3)C3=CC=C(C=C3)[N+](=O)[O-])=O)C=C1 | C20H18N2O5
reactant | ether | CCOCC | C4H10O
solvent | ethyl acetate | 100 ml | C(C)(=O)OCC | C4H8O2
catalyst | palladium-on-carbon | 1 g | [Pd] | Pd
product | 1-(4-aminophenyl)-3-(4-methoxybenzyl)-3-azabicyclo[3.1.1]heptane-2,4-dione | NC1=CC=C(C=C1)C12C(N(C(C(C1)C2)=O)CC2=CC=C(C=C2)OC)=O | C20H20N2O3
